US08981085B2
A mixture of trans-benzyl 3-(diethoxyphosphorylamino)-4-fluoropiperidine-1-carboxylate (0.54 g, 1.4 mmol) and 10% Pd/C (0.074 g, 0.070 mmol) in methanol (30 mL) was charged with 1 atmosphere hydrogen and stirred at room temperature for 6 hours. The catalyst was removed by filtration and washed with methanol (20 mL). The filtrate was concentrated in vacuo to give diethyl trans-4-fluoropiperidin-3-ylphosphoramidate (0.35 g, 99%) as oil.

reactant | trans-benzyl 3-(diethoxyphosphorylamino)-4-fluoropiperidine-1-carboxylate | 1.4 mmol, 0.54 g | C(C)OP(=O)(OCC)N[C@@H]1CN(CC[C@H]1F)C(=O)OCC1=CC=CC=C1 | C17H26FN2O5P
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd/C | 0.070 mmol, 0.074 g | [Pd] | Pd
product | diethyl trans-4-fluoropiperidin-3-ylphosphoramidate | 0.35 g, 99% | F[C@H]1[C@@H](CNCC1)NP(OCC)(OCC)=O | C9H20FN2O3P
